US09023865B2
7-fluoro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine
A 200 mL round bottom flask was charged with 3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (0.76 g, 1.625 mmol) and the flask was put under an atmosphere of argon. The reaction was charged with 10 mL THF and the slurry was cooled to 0° C. in an ice bath. Xenon Difluoride (0.056 ml, 1.418 mmol) was added with vigorous stirring in several portions. Then stirring was continued with warming to ambient temperature.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 1.625 mmol, 0.76 g | CC1=NC=CC(=C1)C1=NN(C2=C1C=NC(=C2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H25N5
reactant | Xenon Difluoride | 1.418 mmol, 0.056 ml | [Xe](F)F | F2Xe
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-fluoro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | FC=1C2=C(C=NC1N)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C | C31H24FN5
